US07435815B2
N-Benzyl-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(naphthalene-2-sulfonyl)-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-benzyl-N-ethylamine and naphthalene-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
reactant | naphthalene-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide | COC1=CC=C(C=N1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H14N2O3S
product | N-Benzyl-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(naphthalene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C=1C=NC(=CC1)OC)=O)CC | C27H27N3O4S
